US07728018B2
Cyclohexane-1,1-dicarbonitrile
Malononitril (15.0 g) was dissolved in dry DMF (200 mL). Subsequently, DBU (75 mL) and 1,5-dibromopentane (34 mL) were added at 0° C. (ice bath). The ice bath was removed and the reaction was stirred for 2 h at 80° C. After cooling down, the reaction was poured into DCM. The organic layer was washed several times with 5% NaHCO3, the organic layer dried over Na2SO4 and the solvent evaporated under reduced pressure. The crude product was purified by flash chromatography eluting with PA:EtOAc (9:1) yielding 25.7 g white crystals. 1H NMR (400 MHz, CDCl3) δ 1.48-1.61 (m, 2H), 1.68-1.84 (m, 4H), 2.13 (t, J=6 Hz, 4H).

reactant | Malononitril | 15.0 g | C(CC#N)#N | C3H2N2
reactant | DBU | 75 mL | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | 1,5-dibromopentane | 34 mL | BrCCCCCBr | C5H10Br2
solvent | DMF | 200 mL | CN(C)C=O | C3H7NO
product | Cyclohexane-1,1-dicarbonitrile | 25.7 g | C1(CCCCC1)(C#N)C#N | C8H10N2
